data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2824,3139,[CH3:17][O:18][C:19](=[O:20])[C:21]([C:22]#[N:23])=[O+:24][C-:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1.[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Cl:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Cl:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[O:24][C:21]2([C:19]([O:18][CH3:17])=[O:20])[C:22]#[N:23],water,298.15,19.469052248226067,-41.38023476889849
4193,4797,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[CH:17][C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:20]([CH3:21])=[O:22])[O:16][CH:17]2[C:18]#[N:19],water,298.15,12.906285341872252,-39.0272139045798
442,484,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][O:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:19]([CH3:20])=[O:21])[N:14]=[C:15]3[C:16]([CH3:17])=[O:18],water,298.15,12.944543774631333,-50.58569438199064
2657,2948,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([Br:9])([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C-:24]([C:25]([CH3:26])=[O:27])[N+:28]([CH3:29])=[C:30]([CH3:31])[C:32]#[N:33]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([Br:9])([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([O:21][CH3:20])=[O:23])([C:25]([CH3:26])=[O:27])[N:28]([CH3:29])[C:30]2([CH3:31])[C:32]#[N:33],water,298.15,28.49721631425799,-31.554333995786195
2740,3046,[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C-:26]([N+:27]#[C:28][C:29](=[O:30])[O:31][CH3:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:28]([C:29](=[O:30])[O:31][CH3:32])=[N:27][C:26]2([C:24]([NH:23][CH3:22])=[O:25])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,14.241067717912893,-49.6774202039223
4664,5319,[CH3:10][O:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23][c:24]1=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]2([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:24](=[O:25])[O:23]2,water,298.15,33.12539280218981,9.036574670624368
761,823,[CH3:15][C:16](=[O:17])[C:18]([CH3:19])=[O+:20][C-:21]([CH3:22])[CH3:23].[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:18]([C:16]([CH3:15])=[O:17])([CH3:19])[O:20][C:21]3([CH3:22])[CH3:23],water,298.15,9.205130489637147,-59.965990991374575
4886,5570,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[C:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22])[C:23](=[O:24])[NH:25][CH3:26]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:23](=[O:24])[NH:25][CH3:26])[O:16][C:17]2([C:18]#[N:19])[C:20]([CH3:21])=[O:22],water,298.15,8.037569510299889,-31.63375401317143
1411,1553,[CH3:11][C:12]([CH3:13])=[NH+:14][C-:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7](=[O:8])[O:9][CH3:10]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[C:12]([CH3:11])([CH3:13])[NH:14][C:15]1([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,4.778505116014023,-51.94214588342618
1739,1926,[CH3:19][NH:20][C:21](=[O:22])[CH:23]=[NH+:24][CH-:25][C:26]#[N:27].[CH3:1][NH:2][C:3](=[O:4])[C:5](=[C:6]([C:7]([F:8])([F:9])[F:10])[C:11]([F:12])([F:13])[F:14])[C:15]([F:16])([F:17])[F:18]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:15]([F:16])([F:17])[F:18])[C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH:25]([C:26]#[N:27])[NH:24][CH:23]1[C:21]([NH:20][CH3:19])=[O:22],water,298.15,10.818784347907268,-11.385850296810837
